US06187780B1
7-Benzyl-8-(tert.-butyl)-3-(2-methoxycarbonylethyl)-1-n-propyl-xanthine
5.0 g (14.7 mmol) of 7-benzyl-8-(tert.-butyl)-1-n-propyl-xanthine are dissolved in 200 ml of dimethylformamide. After the addition of 5.36 g of K2CO3, 19.6 mmol of methyl 3-methanesulphonylpropionate are added at ambient temperature and the mixture is then heated to 90-100° C. After about 20 hours at constant temperature the solvent is distilled off in vacuo and the residue remaining is taken up in dichloromethane. The organic phase is washed with water, dried over MgSO4 and the solvent is distilled off in vacuo. The crude product remaining is purified by chromatography on silica gel (dichloromethane:methanol 97:3).

reactant | 7-benzyl-8-(tert.-butyl)-1-n-propyl-xanthine | 14.7 mmol, 5.0 g | C(C1=CC=CC=C1)N1C(=NC=2NC(N(C(C12)=O)CCC)=O)C(C)(C)C | C19H24N4O2
reactant | K2CO3 | 5.36 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 3-methanesulphonylpropionate | 19.6 mmol | CS(=O)(=O)CCC(=O)OC | C5H10O4S
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 7-Benzyl-8-(tert.-butyl)-3-(2-methoxycarbonylethyl)-1-n-propyl-xanthine | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCC)=O)CCC(=O)OC)C(C)(C)C | C23H30N4O4
